US05665730
5. 8-(2-Methoxycarbonylamino-6-methylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine
4.5 g of sodium iodide and 6.63 g of dry sodium carbonate are added to a solution of 4.03 g of 8-amino-2,3-dimethylimidazo[1,2-a]pyridine and 6.41 g of 2-methoxycarbonylamino-6-methyl-benzyl chloride in 400 ml of dry acetone, and the mixture is heated under reflux for 6 h. After cooling to RT, 400 ml of water are added and the acetone is distilled off in a water jet vacuum. The aqueous residue is then extracted three times with each time 200 ml of ethyl acetate. The combined organic extracts are washed with 300 ml of water, dried over magnesium sulfate and then concentrated. The residue is purified by chromatography on silica gel (toluene/dioxan=9:1 as eluent). The fractions with Rf =0.2 are concentrated and then recrystallized from diisopropyl ether. 4.71 g (56%) of the title compound of m.p. 136°-138° C. are isolated.

reactant | sodium iodide | 4.5 g | [I-].[Na+]
reactant | sodium carbonate | 6.63 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 8-amino-2,3-dimethylimidazo[1,2-a]pyridine | 4.03 g | NC=1C=2N(C=CC1)C(=C(N2)C)C | C9H11N3
reactant | 2-methoxycarbonylamino-6-methyl-benzyl chloride | 6.41 g | COC(=O)NC1=C(CCl)C(=CC=C1)C | C10H12ClNO2
solvent | acetone | 400 ml | CC(=O)C | C3H6O
solvent | water | 400 ml | O | H2O
product | 8-(2-Methoxycarbonylamino-6-methylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine | 4.71 g, 56% | COC(=O)NC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)C)C(=CC=C1)C | C19H22N4O2
